US06410592B1
D: 2-(N-Benzylmethylamino)methyl-3,4-dihydro-2H-phenanthren-1-one hydrochloride
A mixture of 3,4-dihydro-2H-phenanthren-1-one (3.09 g), benzylmethylamine (2.51 g), paraformaldehyde (0.8 g), hydrochloric acid (5 M, 4.76 cm3) and ethyl alcohol (60 cm3) was heated to reflux for 48 h. It was then allowed to cool to room temperature and the alcohol was removed under reduced pressure. Water (100 cm3) was added and the remaining phenanthren-1-one was extracted into diethyl ether (2×100 cm3). The aqueous layer was further extracted with dichloromethane (2×100 cm3) and the combined dichloromethane extracts were dried (Na2SO4) and concentrated under reduced pressure to afford the title compound as a pink solid (3.5 g).

reactant | 3,4-dihydro-2H-phenanthren-1-one | 3.09 g | C1(CCCC=2C3=CC=CC=C3C=CC12)=O | C14H12O
reactant | benzylmethylamine | 2.51 g | C(C1=CC=CC=C1)CN | C8H11N
reactant | paraformaldehyde | 0.8 g | C=O | CH2O
reactant | hydrochloric acid | 5 M, 4.76 cm3 | Cl | ClH
solvent | ethyl alcohol | 60 cm3 | C(C)O | C2H6O
product | 2-(N-Benzylmethylamino)methyl-3,4-dihydro-2H-phenanthren-1-one hydrochloride | 3.5 g | Cl.C(C1=CC=CC=C1)CNCC1C(C=2C=CC3=CC=CC=C3C2CC1)=O | InChI=1S/C23H23NO.ClH/c25-23-19(16-24-15-14-17-6-2-1-3-7-17)11-12-21-20-9-5-4-8-18(20)10-13-22(21)23;/h1-10,13,19,24H,11-12,14-16H2;1H
